US07341764B2
For example, a process for synthesizing perfluoro-2-pentyne is described in J. Am. Chem. Soc., vol. 76, p611 (1954) wherein hexachlorocyclopentadiene is treated with antimony trifluorodichloride to synthesize 1,2-dichloro-3,3,4,4,5,5-hexafluorocyclopentene; and, 2,3-dichloro-1,1,1,4,4,5,5,5-octafluoro-2-pentene as produced as a by-product in this synthetic process is dechlorinated with zinc to give perfluoro-2-pentyne. This process has a problem such that an antimony pentahalide, which is troublesome to handle, must be used for obtaining the raw material (i.e., 2,3-dichloro-1,1,1,4,4,5,5,5-octafluoro-2-pentene), and the yield of perfluoro-2-pentyne is low.

reactant | perfluoro-2-pentyne | FC(C#CC(C(F)(F)F)(F)F)(F)F | C5F8
reactant | hexachlorocyclopentadiene | ClC1(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C5Cl6
reactant | antimony trifluorodichloride | [F-].[F-].[F-].[Cl-].[Cl-].[Sb+5]
reactant | 1,2-dichloro-3,3,4,4,5,5-hexafluorocyclopentene | ClC1=C(C(C(C1(F)F)(F)F)(F)F)Cl | C5Cl2F6
product | 2,3-dichloro-1,1,1,4,4,5,5,5-octafluoro-2-pentene | ClC(C(F)(F)F)=C(C(C(F)(F)F)(F)F)Cl | C5Cl2F8
